US06946463B2
Cyclopropyl-2-pyridyl ketone.
Dry magnesium powder (0.79 g, 32.6 mmol), which had been previously crushed in a mortar with a pestle, was charged into a dry round bottom flask under a nitrogen atmosphere. To this was added diethyl ether (20 mL), followed by bromocyclopropane (3.95 g, 2.61 mL, 32.6 mmol). A small amount of iodine (0.002 g) was added to initiate formation of the Grignard reagent. The reaction was heated to a gentle reflux for a short period of time (˜1 h) until all of the magnesium metal had reacted. The material was allowed to stir at room temperature for 2 hours, and then cooled in an ice bath. To this was added 2-cyanopyridine (2.0 g, 19.2 mmol) in diethyl ether (10 mL). The mixture was stirred for 3 hours, and then carefully quenched with sat. ammonium chloride (3 mL). The reaction was then acidified with 15% aq. hydrochloric acid (3 mL). The mixture was stirred for 20 minutes, and then made basic by the addition of 10 N sodium hydroxide until the pH was approximately 9. To this solution was added ethyl acetate (300 mL), and the aqueous layer was extracted with water (30 mL). The organic layer was washed with brine, dried over Na2SO4 and evaporated to dryness giving a yellow oil. This oil was chromatographed (SiO2, hexanes/ethyl acetate: 75/25) to give the title compound as a yellow oil (1.48 g, 52%). 1H NMR (300 MHz, DMSO-d6): δ 1.10 (m, 4H); 3.46 (m, 1H); 7.70 (m, 1H); 7.96 (t, 1H, J=78. Hz); 8.01 (t, 1H, J=7.8 Hz); 8.77 (d, 1H, J=4.8 Hz).

reactant | magnesium | 32.6 mmol, 0.79 g | [Mg] | Mg
reactant | bromocyclopropane | 32.6 mmol, 2.61 mL, 3.95 g | BrC1CC1 | C3H5Br
reactant | 2-cyanopyridine | 19.2 mmol, 2.0 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | diethyl ether | 10 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 20 mL | C(C)OCC | C4H10O
catalyst | iodine | 0.002 g | II | I2
product | Cyclopropyl-2-pyridyl ketone | 1.48 g, 52% | C1(CC1)C(=O)C1=NC=CC=C1 | C9H9NO
